US04056527
Analogously to Example 1, N-cyclohexyl-bis-(chloro-carbonyl)-amine (prepared analogously to Snythesis 1970, pages 542-543; boiling point 80°-82° C/0.3 mm Hg) and acetone-S-methylisothiosemicarbazone hydroiodide, with addition of triethylamine, yielded 1-cyclohexyl-3-isopropylideneamino-4-methylmercaptotetrahydro- 1,3,5-triazine-2,6-dione as a pale yellow powder of melting point 111°-112° C.

reactant | N-cyclohexyl-bis-(chloro-carbonyl)-amine | C1(CCCCC1)N(C(=O)Cl)C(=O)Cl | C8H11Cl2NO2
reactant | acetone-S-methylisothiosemicarbazone hydroiodide | I.CSC(NN=C(C)C)=N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-cyclohexyl-3-isopropylideneamino-4-methylmercaptotetrahydro- 1,3,5-triazine-2,6-dione | C1(CCCCC1)N1C(N(C(NC1=O)SC)N=C(C)C)=O | C13H22N4O2S
